US04349684
8-[4.5-Bis-(2-fluorophenyl)-3-methyl-2-oxo-4-imidazolin-1-yl] caprylic acid methyl ester
The product is produced as described in example 1 from 0.63 of NaH (80% suspension in mineral oil), 5.9 g of 4.5-bis-(2-fluorophenyl)-1-methyl-4-imidazolin-2-one, 40 cc. of DMF, 5.0 g of 8-bromo caprylic methyl ester and 0.63 g of NaJ.

reactant | NaH | [H-].[Na+]
reactant | 4.5-bis-(2-fluorophenyl)-1-methyl-4-imidazolin-2-one | 5.9 g | FC1=C(C=CC=C1)C=1NC(N(C1C1=C(C=CC=C1)F)C)=O | C16H12F2N2O
reactant | 8-bromo caprylic methyl ester | 5.0 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-[4.5-Bis-(2-fluorophenyl)-3-methyl-2-oxo-4-imidazolin-1-yl] caprylic acid methyl ester | COC(CCCCCCCN1C(N(C(=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)C)=O)=O | C25H28F2N2O3
